US09255090B2
Synthesis of (1S,2S)-2-Phenyl-cyclopropanecarboxylic acid (C10H10O2, MW=162.07)
To a solution of (1S,2S)-2-phenyl-cyclopropanecarboxylic acid ethyl ester (42 mg, 0.22 mmol, 1.0 eq.) in THF (0.68 mL) and EtOH (0.18 mL), 1M aq. NaOH (0.32 ml) was added. The solution was stirred at r.t. for 18 hours. The organic solvents were removed in vacuo. The residue was diluted with water and washed with AcOEt. The aq. phase was acidified with 2N aq. HCl soln. The mixture was extracted with DCM (3×). The comb. org. phases were dried over MgSO4, filtered and concentrated in vacuo to give the title compound as a colorless oil. The product was used without further purification.

reactant | (1S,2S)-2-phenyl-cyclopropanecarboxylic acid ethyl ester | 0.22 mmol, 42 mg, 1.0 eq. | C(C)OC(=O)[C@@H]1[C@H](C1)C1=CC=CC=C1 | C12H14O2
solvent | THF | 0.68 mL | C1CCOC1 | C4H8O
solvent | EtOH | 0.18 mL | CCO | C2H6O
solvent | NaOH | 1M, 0.32 ml | [OH-].[Na+]
product | (1S,2S)-2-Phenyl-cyclopropanecarboxylic acid | C1(=CC=CC=C1)[C@@H]1[C@H](C1)C(=O)O | C10H10O2
